US06093744
Synthesis of [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-cyano-2,6-diisopropyl-phenyl ester
Oxalyl chloride (0.48 mL, 5.5 mmol) was added dropwise to a solution of 2,4,6-triisopropylphenyl acetic acid (1.21 g, 4.6 mmol) in 100 mL toluene with 4 drops of N,N-dimethylformamide as a catalyst. The resulting solution was stirred overnight and then concentrated in vacuo. The residue was re-dissolved in 150 mL dichloromethane. 2,6-Bis(l-methylethyl)-4-cyanophenyl sulfamate (1.30 g, 4.6 mmol) and triethylamine (1.6 mL) were added, and the resulting mixture was stirred for 6 hours. Washed with 1 M HCl, dried the organic layer over magnesium sulfate, filtered, and concentrated to give an oily solid. Chromatography on silica gel (20% ethyl acetate/hexanes) gave 1.11 g of the title compound as a white solid; mp 79-84° C.

reactant | Oxalyl chloride | 5.5 mmol, 0.48 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,4,6-triisopropylphenyl acetic acid | 4.6 mmol, 1.21 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)CC(=O)O | C17H26O2
reactant | 2,6-Bis(l-methylethyl)-4-cyanophenyl sulfamate | 4.6 mmol, 1.30 g | S(N)(OC1=C(C=C(C=C1C(C)C)C#N)C(C)C)(=O)=O | C13H18N2O3S
reactant | triethylamine | 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
product | [(2,4,6-Triisopropyl-phenyl)-acetyl]-sulfamic acid 4-cyano-2,6-diisopropyl-phenyl ester | 1.11 g | C(#N)C1=CC(=C(C(=C1)C(C)C)OS(NC(CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)=O)(=O)=O)C(C)C | C30H42N2O4S
